US07608618B2
Step 2: 3-Methoxy-4-[3-(5-trifluoromethyl-pyrazin-2-yl)-ureido]-benzoic acid.
To a stirred solution of 3-methoxy-4-[3-(5-trifluoromethyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester (213 mg, 0.575 mmol) in 5.75 mL 3:1 MeOH:H2O at room temperature under nitrogen was added lithium hydroxide monohydrate (240 mg, 5.8 mmol) and the reaction warmed to 65° C. After reaching temperature, the suspension gradually became a bright yellow solution. After about 4 hours a precipitate formed but the reaction was continued overnight. After cooling to RT, MeOH was removed by rotovap and the aqueous suspension neutralized to pH=5 with concentrated HCl; As pH=5 was approached, the suspension turned from yellow to white. The suspension was then filtered through paper on a ceramic funnel. When most of the H2O was removed the residue was dryed under high vacuum in a dessicator overnight (133 mg, 55%).

reactant | 3-methoxy-4-[3-(5-trifluoromethyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester | 0.575 mmol, 213 mg | COC(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C(F)(F)F)OC)=O | C15H13F3N4O4
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide monohydrate | 5.8 mmol, 240 mg | O.[OH-].[Li+]
solvent | H2O | O | H2O
product | 3-Methoxy-4-[3-(5-trifluoromethyl-pyrazin-2-yl)-ureido]-benzoic acid | COC=1C=C(C(=O)O)C=CC1NC(=O)NC1=NC=C(N=C1)C(F)(F)F | C14H11F3N4O4
